Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness and headache following IPH 3 months ago
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: This is a ___ man with a history of hypertension 
and
chronic atrial fibrillation, originally from ___, who
presents for further evaluation of persistent headaches and
dizziness in the setting of intraparenchymal hemorrhage
approximately 3 months ago.

History is obtained from the patient as well as his friend at 
the
bedside.

They state that 3 months ago, in early ___, the patient
developed sudden onset headache during colitis.  The patient
describes the headache as the most severe headache of his life. 
He subsequently lost consciousness though it is not clear 
whether
this occurred prior to arrival at the hospital or afterwards. He
had a noncontrast head CT at the hospital which showed, 
according
to my read, an acute right caudate hemorrhage with extension 
into
the bilateral lateral ventricles, third ventricle, and fourth
ventricle.  There is no clear underlying mass lesion.

Since that time, the patient endorses bilateral headache,
dizziness, and unsteadiness while walking.  He states that he
will often veer to one side or the other.  This is been the case
since he was in the hospital.  He denies any associated urinary
incontinence or confusion.  

He is unable to provide further details regarding the nature of
the headache but notes that it is primarily located at the 
vertex
on both sides of the head.  He at one point endorses vertiginous
symptoms but subsequently denies any sensation of spinning.  He
describes feeling "funny" when walking.  3 weeks ago, he fell on
his left side without associated head strike.  His symptoms do
not occur when he is lying supine.  They are there, but to a
lesser extent, when standing still.

The patient flew from ___ to ___ yesterday. 
He experienced some symptoms on the plane.  He then flew from
___ to ___, arriving this evening.  He came to 
the
emergency room directly from the airport for further evaluation
of the above symptoms.  He notes that, while walking on the
plane, he again experienced the "funny" sensation that he has
been experiencing for the past 3 months.

No new or sudden onset symptoms at any point during this time
frame. Patient gives vague description of symptoms.

Patient denies vision changes, sore throat, cough, runny nose,
fever, aches/pains, chest pain, shortness of breath, abdominal
pain, bowel habit changes, or dysuria.

 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
==============
ADMISSION EXAM
==============
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused, RRR
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Patient was able to name both high 
and
low frequency objects though some difficult due to language
barrier. Speech was not dysarthric. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Left arm pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    4+  5   4     5-   4   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, short steps. Able to walk
in tandem without difficulty. Romberg absent.

==============
DISCHARGE EXAM
==============
Neurologic:

-Mental Status: Awake, alert, oriented to self, ___,
___. Able to relate history without difficulty.
-Language is fluent with Normal prosody. There were no 
paraphasic errors. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift this AM
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA  ___
L  5    ___   5    4+  5   5-   5-   5-  5    5      5
R  5    ___   5    ___    5    5   5    5      5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Stance mildly wide-based. Stable gait, normal stride 
length. 
 
Pertinent Results:
====
LABS
====
___ 04:40PM BLOOD WBC-9.3 RBC-4.13* Hgb-12.8* Hct-41.5 
MCV-101* MCH-31.0 MCHC-30.8* RDW-14.8 RDWSD-55.4* Plt ___
___ 09:43AM BLOOD WBC-10.6* RBC-4.18* Hgb-13.2* Hct-41.6 
MCV-100* MCH-31.6 MCHC-31.7* RDW-14.1 RDWSD-52.7* Plt ___
___ 09:43AM BLOOD ___ PTT-25.0 ___
___ 09:43AM BLOOD Glucose-188* UreaN-17 Creat-0.9 Na-144 
K-4.1 Cl-102 HCO3-27 AnGap-15
___ 09:43AM BLOOD ALT-13 AST-17 LD(LDH)-236 CK(CPK)-48 
AlkPhos-67 TotBili-0.5
___ 09:43AM BLOOD Albumin-4.2 Cholest-203*
___ 09:43AM BLOOD %HbA1c-5.3 eAG-105
___ 09:43AM BLOOD Triglyc-98 HDL-54 CHOL/HD-3.8 LDLcalc-129
___ 12:28AM BLOOD TSH-2.9
___ 09:43AM BLOOD TSH-1.5
___ 09:43AM BLOOD CRP-1.4
___ 05:43PM URINE RBC-<1 WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-0
___ 05:43PM URINE Blood-NEG Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 05:43PM URINE Color-Straw Appear-Clear Sp ___

=======
IMAGING
=======
- ___ CT Head
No acute intracranial process. 

- ___ CTA Head & Neck
1. No evidence of acute infarction or hemorrhage. 
2. Chronic infarcts in the bilateral basal ganglia. 
3. Moderate focal stenosis involving the inferior division of 
the right M2 
segment proximally. Otherwise, patent circle of ___ with no 
evidence of 
aneurysm formation. 
4. No evidence of internal carotid artery stenosis by NASCET 
criteria. 

- ___ MRI Brain W/WO Contrast
EXAMINATION:  MR HEAD W AND W/O CONTRAST ___ MR HEAD 
INDICATION:  ___ with ic mass r/o 
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of intravenous contrast, axial imaging was 
performed with 
gradient echo, FLAIR, diffusion, and T1 technique. Sagittal 
MPRAGE imaging was performed and re-formatted in axial and 
coronal orientations. 
COMPARISON:  ___TA 
___ outside hospital noncontrast head CT 
FINDINGS:  
Along the lateral wall of the right lateral ventricle, there is 
a 1.4 cm T2 hyperintense, T1 hyperintense, nonenhancing 
structure associated with 
susceptibility artifact.  On ___ noncontrast head CT, 
there was an 
intraventricular hemorrhage and adjacent intraparenchymal 
hematoma at this 
location.  There is chronic hemorrhage in the left caudate body 
and anterior limb of internal capsule.  There is benign 
mineralization reflected by susceptibility artifact in the 
bilateral globus pallidi. 
  
There is no evidence of acute hemorrhage, edema, masses, mass 
effect, midline shift or infarction.  Periventricular and 
subcortical white matter T2/FLAIR hyperintensities are 
nonspecific but likely sequelae of chronic small vessel ischemic 
disease.   The ventricles and sulci are normal in caliber and 
configuration.  There is no abnormal enhancement after contrast 
administration. 
  
IMPRESSION: 
1. No evidence of an acute intracranial abnormality. 
2. Bilateral caudate head and anterior limb of internal capsule 
distribution hemorrhages, chronic on the left, evolving since 
___ on the right, are typical of hypertension.  The 
finding described on the initial wet read as a possible 
intraventricular lesion reflects chronic blood products adherent 
to the lateral wall of the right lateral ventricle. 
3. No focal lesion. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
___, MD 
___, MD electronically signed on ___ 
2:37 ___ 

 
Brief Hospital Course:
Mr. ___ is a ___ man with hypertension who presented 
due to dizziness and gait problems following a right caudate IPH 
3 months ago in ___. During his admission there, he was 
started on 4 antihypertensive agents (enalapril 20mg, nifedipine 
ER 30mg daily, atenolol 50mg, and hydrochlorothiazide 25mg 
daily). Since then he has been having gait problems and 
persistent lightheadedness upon standing. He presented to ___ 
upon arrival from ___ for evaluation of these complaints. 


During his presentation here, his systolic blood pressures 
ranged from 88-123. He was given fluids in the ED before 
orthostatic vital signs could be adequately assessed. However, 
he remained low-to-normotensive even despite holding all of his 
antihypertensives for ___TA, and MRI with contrast were done and showed a 
small amount of chronic blood products from the prior right 
caudate bleed, as well as evidence of prior hemorrhage near the 
left internal capsule. The etiology of these findings is likely 
hypertensive. 

However, his hypertension was likely over-aggressively treated 
by his physicians in ___ -- due to his symptomatic 
orthostasis since discharge 3 months ago. He does also have very 
mild residual left leg weakness, likely resulting from the 
right-sided hemorrhagic infarct. He was assessed by physical 
therapy who felt he was safe for discharge with outpatient ___. 

He plans to remain in the ___. for the next two weeks. We 
recommended stopping three-of-four antihypertensives, and 
switching enalapril to lisinopril for easier availability. He is 
staying with a relative in ___, and is able to provide 
transportation and referrals to a primary care provider. We 
recommended continuing lisinopril, and following-up with a 
primary care provider in the next few days -- at least once 
before returning to ___ in 2 weeks -- to titrate BP 
medications. Goal SBP 110-140 (to mitigate hypotension as well 
as hypertension and risk of future stroke). We also recommended 
purchasing a home BP cuff and measuring his BP three times daily 
for the next several days, in order to provide data with the 
primary provider he ___ with. 

- Start lisinopril 10mg daily. 
- Stop other antihypertensives. 
- Measure BPs at home. 
- Titrate BP meds per primary care providers, goal SBP 110-140. 
- Follow-up with PCP in the next ___ weeks, and thereafter in 
___. 
- Avoid NSAIDs including aspirin, ibuprofen, naproxen, and 
diclofenac. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 20 mg PO DAILY 
2. NIFEdipine (Extended Release) 30 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Diclofenac Sodium ___ 50 mg PO PRN pain 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*1 
2. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until told to do so by a medical provider. 
3. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until told to do so by 
a medical provider. 
4. HELD- NIFEdipine (Extended Release) 30 mg PO DAILY  This 
medication was held. Do not restart NIFEdipine (Extended 
Release) until told to do so by a medical provider. 
5.Outpatient Physical Therapy
___ for balance 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Weakness; Hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for symptoms of dizziness and gait instability 
you had been experiencing since a hemorrhagic (bleeding) stroke 
3 months ago while in ___. We reviewed the CT scan from 
___, and performed our own CT and MRI scans. These showed 
no new strokes or bleeding. There were some remnants of the 
previous blood, but this is not concerning. 

The type of stroke you had was most likely the result of 
uncontrolled high blood pressure. Your physicians in ___ 
started you on 4 blood pressure medications. Your blood 
pressures while here have been fairly low, even though we did 
not give you any of those 4 medications. It is likely that your 
high blood pressure may have been over-treated. And this likely 
has caused many of the symptoms of lightheadedness (orthostasis) 
upon standing, which you report has been occurring for the last 
several months, and is likely partly responsible for your 
balance problems and recent fall 3 weeks ago. You do have some 
residual weakness on your left side which is also partly 
responsible for your gait difficulties. 

- STOP taking enalapril
- START taking lisinopril 10mg daily. 

- STOP taking nifedipine
- STOP taking atenolol 
- STOP taking hydrochlorothiazide

Please obtain a blood pressure monitor and over the next several 
days measure your blood pressure at home 3 times per day. To 
measure your blood pressure, sit with your legs uncrossed and 
rest for ___ minutes, then check your blood pressure with your 
arm at heart level. Record these values in a notebook and 
provide them to your PCP at your next visit. 

Your goal systolic blood pressure "SBP" (the higher number, such 
as 120 in "120/80" should ideally be between 110-140). We want 
to avoid excessive values for systolic blood pressure in order 
to reduce the risk of future bleeds and other stroke. On the 
other hand, values that are too low make you more prone to 
lightheadedness. 

This may take some fine-tuning of your blood pressure 
medications over the next several weeks by your primary care 
doctors here and ___ in ___. 

We will also give you a prescription for outpatient physical 
therapy. 

It was a pleasure taking care of you, 
Your ___ Neurology Team

 
Followup Instructions:
___